US06987114B1
1-(Benzoxazol-2-ylmethyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2-chloromethyl benzoxazole were reacted by the same way with the example 1 to obtain the titled compound (176 mg, yield: 43.2%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | 2-chloromethyl benzoxazole | ClCC=1OC2=C(N1)C=CC=C2 | C8H6ClNO
product | 1-(Benzoxazol-2-ylmethyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 176 mg, yield: 43.2% | O1C(=NC2=C1C=CC=C2)CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)CC)=O)=O | C22H21N3O3S
